US04731373
A solution of 0.2 g of (R)-1-O-(4-chloro-butyryl)-2-O-(methylcarbamoyl)-3-O-octadecylglycerine in 10 ml of pyridine is heated to 80° C. for 16 hours. The solution is evaporated and the residue is treated with toluene by azeotropic distillation. The residue is recrystallized from ether. There is obtained 1-[3-[[(R)-2-[(methylcarbamoyl)oxy]-3-(octadecyloxy)propoxy]carbonyl]-propyl]pyridinium chloride of melting point 53°-60° C. (dec.).

reactant | (R)-1-O-(4-chloro-butyryl)-2-O-(methylcarbamoyl)-3-O-octadecylglycerine | 0.2 g | ClCCCC(=O)OC[C@H](OC(NC)=O)COCCCCCCCCCCCCCCCCCC | C27H52ClNO5
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-[3-[[(R)-2-[(methylcarbamoyl)oxy]-3-(octadecyloxy)propoxy]carbonyl]-propyl]pyridinium chloride | [Cl-].CNC(=O)O[C@@H](COC(=O)CCC[N+]1=CC=CC=C1)COCCCCCCCCCCCCCCCCCC | InChI=1S/C32H56N2O5.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-21-27-37-28-30(39-32(36)33-2)29-38-31(35)23-22-26-34-24-19-18-20-25-34;/h18-20,24-25,30H,3-17,21-23,26-29H2,1-2H3;1H/t30-;/m1./s1
